US05120347
To a suspension of t-butyl hydrazine hydrochloride (6.2 g, 0.05 mole), water (30 mL) and toluene (60 mL) at 0° C. to 5° C. was added 50% sodium hydroxide (4.0 g, 0.05 mol). To the above reaction mixture was then added, separately and simultaneously, 50% sodium hydroxide (4.0 g, 0.05 mol) and 3-chlorobenzoyl chloride (8.8 g, 0.05 mol) from two dropping funnels. After addition was completed, the reaction mixture was stirred at 0° C. for 30 minutes and room temperature for 30 minutes. The resultant precipitate was collected by suction-filtration and washed with water (100 mL) and dried in air to give 9.0 g (79% yield) of 1-(3chlorobenzoyl)-2-t-butyl hydrazine as a white solid. mp 116°-118° C.

reactant | t-butyl hydrazine hydrochloride | 0.05 mole, 6.2 g | Cl.C(C)(C)(C)NN
reactant | water | 30 mL | O | H2O
reactant | sodium hydroxide | 0.05 mol, 4.0 g | [OH-].[Na+]
reactant | sodium hydroxide | 0.05 mol, 4.0 g | [OH-].[Na+]
reactant | 3-chlorobenzoyl chloride | 0.05 mol, 8.8 g | ClC=1C=C(C(=O)Cl)C=CC1 | C7H4Cl2O
solvent | toluene | 60 mL | C1(=CC=CC=C1)C | C7H8
product | 1-(3chlorobenzoyl)-2-t-butyl hydrazine | 9.0 g, 79% yield | ClC=1C=C(C(=O)NNC(C)(C)C)C=CC1 | C11H15ClN2O
